US07429607B2
1-benzo[b]thiophen-4-yl-2-bromo-ethanone was synthesised from 1-benzo[b]thiophen-4-yl-ethanone (available by the palladium coupling of 4-bromobenzo[b]thiophene with 1-vinyloxy-butane) according to the method in Example 10A(a) (6.8 g, 92%) as an orange oil; 1H NMR (CDCl3): 4.6 (2H, s), 7.4 (1H, t, J=7.8 Hz), 7.65 (1H, d, J=5.7 Hz), 7.95 (1H, dd, J=7.8, 0.9 Hz), 8.1 (1H, dt, J=7.8, 0.9 Hz), 8.3 (1H, dd, J=5.7, 0.9 Hz).

reactant | 1-benzo[b]thiophen-4-yl-ethanone | S1C2=C(C=C1)C(=CC=C2)C(C)=O | C10H8OS
reactant | 4-bromobenzo[b]thiophene | BrC1=CC=CC=2SC=CC21 | C8H5BrS
reactant | 1-vinyloxy-butane | C(=C)OCCCC | C6H12O
catalyst | palladium | [Pd] | Pd
product | 1-benzo[b]thiophen-4-yl-2-bromo-ethanone | S1C2=C(C=C1)C(=CC=C2)C(CBr)=O | C10H7BrOS
